US07511041B2
(4) 8-(Morpholin-4-yl)-2,3-dihydroimidazo[1,2-c]quinazolin-5-amine hydrobromide
To a suspension of [2-(4,5-dihydro-1H-imidazol-2-yl)-5-(morpholin-4-yl)phenyl]amine 3.60 g (14.6 mmol) in 2-propanol 20 mL was added cyanogen bromide 2.32 g (21.9mmol) portionwise at 0° C. and stirred at 100° C. for 2 hours. After cooling to room temperature, the precipitate was collected and washed with diethyl ether to give the title compound 1.20 g as yellow solid. Yield 77.5%.

reactant | [2-(4,5-dihydro-1H-imidazol-2-yl)-5-(morpholin-4-yl)phenyl]amine | 14.6 mmol, 3.60 g | N1C(=NCC1)C1=C(C=C(C=C1)N1CCOCC1)N | C13H18N4O
reactant | cyanogen bromide | 21.9mmol, 2.32 g | N#CBr | CBrN
solvent | 2-propanol | 20 mL | CC(C)O | C3H8O
product | 8-(Morpholin-4-yl)-2,3-dihydroimidazo[1,2-c]quinazolin-5-amine hydrobromide | 1.20 g, Yield 77.5% | Br.N1(CCOCC1)C=1C=CC=2C=3N(C(=NC2C1)N)CCN3 | InChI=1S/C14H17N5O.BrH/c15-14-17-12-9-10(18-5-7-20-8-6-18)1-2-11(12)13-16-3-4-19(13)14;/h1-2,9H,3-8H2,(H2,15,17);1H
